US09402841B2
Step A: 2-cyano-4-methylpyridine-1-oxide
A solution of 4-methylpicolinonitrile (5 g, 42.3 mmol) in DCM (25 mL) was cooled in an ice/brine bath. To this solution was added mCPBA (14.61 g, 85 mmol). The reaction mixture was allowed to warm to RT and was stirred overnight. The mixture was subsequently diluted with DCM until all solids were dissolved and was washed with 1N NaOH (2×200 mL) and with brine. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo to give the title compound as a white solid (4.03 g, 71%). ESI-MS m/z [M+H]+ 135.1.

reactant | 4-methylpicolinonitrile | 42.3 mmol, 5 g | CC1=CC(=NC=C1)C#N | C7H6N2
reactant | mCPBA | 85 mmol, 14.61 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-cyano-4-methylpyridine-1-oxide | 4.03 g, 71% | C(#N)C1=[N+](C=CC(=C1)C)[O-] | C7H6N2O
